US09056843B2
Intermediate 12b: 4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-benzoic acid
To 4-(N-hydroxycarbamimidoyl)-benzoic acid (3.37 g, 18.71 mmol) in dry THF (62.4 mL) was added dropwise (over 30 min) TFAA (3.96 mL, 28.1 mmol). The white insoluble starting material solubilised during addition. The light yellow solution was stirred at RT under inert atmosphere for 2 h. The reaction mixture was condensed in vacuo after 2 h. The crude was washed with EtOAc (100 ml) to afford E-50734-EXPO42 (3.72 g, 14.41 mmol, 77% yield) as a white solid.

reactant | 4-(N-hydroxycarbamimidoyl)-benzoic acid | 18.71 mmol, 3.37 g | ONC(=N)C1=CC=C(C(=O)O)C=C1 | C8H8N2O3
reactant | TFAA | 28.1 mmol, 3.96 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 62.4 mL | C1CCOC1 | C4H8O
product | 4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-benzoic acid | 77% yield | FC(C1=NC(=NO1)C1=CC=C(C(=O)O)C=C1)(F)F | C10H5F3N2O3
